US05051423
1-[4-(2-Methyl-2-propenyloxy)phenyl]-1H-imidazole
Suspend 40 g (0.25 mol) of 4-(1H-imidazol-1-yl)phenol in 280 mL of THF and treat with 15 9 (0.375 mol) of a 60% dispersion of sodium hydride in mineral oil. Stir this suspension for 20 min and then add 27.1 mL (0.25 mol) of 3-chloro-2-methylpropene. Heat this mixture to 100° C. for 3 h. After this time, add 250 mL of water and 250 mL of diethyl ether and separate the layers. Re-extract the aqueous layer with 2×250 mL of diethyl ether. Evaporate the combined ether extracts on a rotary evaporator. Triturate with 300 mL of hexanes and filter off the resulting solid to provide the title compound.

reactant | 4-(1H-imidazol-1-yl)phenol | 0.25 mol, 40 g | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 3-chloro-2-methylpropene | 0.25 mol, 27.1 mL | ClCC(=C)C | C4H7Cl
reactant | water | 250 mL | O | H2O
solvent | THF | 280 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | 1-[4-(2-Methyl-2-propenyloxy)phenyl]-1H-imidazole | CC(COC1=CC=C(C=C1)N1C=NC=C1)=C | C13H14N2O
